datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[C:13](C)=[CH:12][CH:11]=[CH2:10]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][CH:11]=[CH:12][C+:13](C)C)[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12"
"Br[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C[C:13]1=[CH:12][CH:11]=[CH:10][CH:61]=[CH:62]1>>C[C+:13]1[CH:12]=[CH:11][CH:10]([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](Br)[CH:35]=[CH:36]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:61]=[CH:62]1 10,11=10,20;12,13=11,12"
"C1=CC=C(O[C:44]2=[CH:43][CH:42]=[C:41]([CH+:20][C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:46]=[CH:45]2)C=C1.CO[C:65]1=[CH:64][CH:63]=[N+:62]([BH2-:11][H:10])[CH:73]=[CH:74]1>>C1=CC=C(O[C:44]2=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:46]=[CH:45]2)C=C1.CO[C:65]1=[CH:64][CH:63]=[N+:62]([BH2:11])[CH:73]=[CH:74]1 10,11=10,20"
"CC(C)[Si:63](C(C)C)(C(C)C)[O:12]/[CH:11]=[CH:10]/C.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10](C)[CH:11]=[O+:12][Si:63](C(C)C)(C(C)C)C(C)C)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:62][Si:11]([H:10])([O:72]CC)[O:82]CC.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1>>CC[O:62][Si+:11]([O:72]CC)[O:82]CC.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10,11=10,20;20,21=21,22;22,23=23"
"C[C:10](C)=[C:11]([O:12][Si:73](C)(C)C)[O:62]C.C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25]>>C[C:10](C)([C:11](=[O+:12][Si:73](C)(C)C)[O:62]C)[CH:20]([C:21](C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25])[C:31](=[O:32])[N:33](C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CO[C:24](/[N:23]=[N:22]/[C:21](C)=[CH:20]/[C:31](=[O:32])[N:33](C)C)=[O:25].C[C:61]#[N:10]>>CO[C:24](=[N:23][N:22]=[C:21](C)[CH:20]([N+:10]#[C:61]C)[C:31](=[O:32])[N:33](C)C)[O-:25] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C(O[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)[Pd-:21]23([P+](OC4=CC=CC=C4)(OC4=CC=CC=C4)OC4=CC=CC=C4)C(C4=CC=CC=C4)C2[CH2:20]3)C=C1.CC[O:72][C:61]([C:10]1=[C:11]([O-:12])CCCCCC1)=[O:62]>>CC[O:72][C:61]([C:10]1([CH2:20]C2C(C3=CC=CC=C3)[Pd-2:21]2([P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)OC2=CC=CC=C2)[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)OC2=CC=CC=C2)CCCCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12;20,21=21"
"CC[O:72][C:61](/[C:10](C)=[C:11](/C)[O-:12])=[O:62].CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[O:72][C:61]([C:10](C)([C:11](C)=[O:12])[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)=[O:62] 10,11=10,20;12=11,12"
"C1C[O:72][C:61](=[O:62])[N-:10]1.CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25])=[O:32]>>CC[O:33][C:31]([CH:20]([N:10]1CC[O:72][C:61]1=[O:62])[C:21](C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25])=[O:32] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25])=[O:32].C[C:63]1=[C:62]([CH:11]=[CH2:10])[C:73](C)=[CH:74][C:65](C)=[CH:64]1>>CC[O:33][C:31]([CH:20]([CH2:10][CH+:11][C:62]1=[C:63](C)[CH:64]=[C:65](C)[CH:74]=[C:73]1C)[C:21](C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25])=[O:32] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([C:23]2=[CH:22][C:21](=[CH:20][C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[CH:32]=[C:33](C3=CC=CC=C3)[C:24]2=[O:25])C=C1.[C-:10]([C:61]#[N:62])([C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1)[C:91]#[N:92]>>C1=CC=C([C:23]2=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32][C:21]([CH:20]([C:10]([C:61]#[N:62])([C:71]3=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]3)[C:91]#[N:92])[C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)=[CH:22]2)C=C1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C.[H][C@]1([C@@H](O)[C:63]2=[CH:62][CH:61]=[N:10][C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C>>[H][C@]1([C@@H](O)[C:63]2=[CH:62][CH:61]=[N+:10]([CH:20]([CH:21]=[CH:22][N:23]3C(CC4=CC=CC=C4)C(=O)N(C)C3(C)C)[C:31]3=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]3)[C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C 10=20;20,21=21,22;22,23=23"
"C1CC[N:12]([C:11]2=[CH:10]CCCC2)CC1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](/C[N+]23CCN(CC2)CC3)[C:22](C)=[O:23])[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2CCCC[C:11]2=[N+:12]2CCCCC2)[C:21](C[N+]23CCN(CC2)CC3)=[C:22](C)[O-:23])[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
